US07645771B2
ethyl 2,3-diamino-6-fluorobenzoate (1.00 g, 5.04 mmole) in 50 ml of water and 10 ml acetic acid was cooled to −10° C. To this solution was added dropwise sodium nitrite (348 mg, 5.04 mmole) in 30 ml of water. After the addition the reaction was warmed to 0° C. for 30 min, then to room temperature for 1 hr, and finally 50° C. for 1 hr. The reaction was filtered after stirring over night and washed with water. The dark brownish purple solid was dissolved in ethylacetate dried over magnesium sulfate and evaporated to afford ethyl 6-fluoro-1H-1,2,3-benzotriazole-7-carboxylate (920 mg, 87% yield) 1H NMR (400 MHz, METHANOL-D4) δ ppm 1.3 (t, J=7.1 Hz, 3H) 4.4 (q, J=7.0 Hz, 2H) 7.2 (dd, J=11.2, 9.0 Hz, 1H) 8.1 (dd, J=9.1, 4.1 Hz, 1H).

reactant | ethyl 2,3-diamino-6-fluorobenzoate | 5.04 mmole, 1.00 g | NC1=C(C(=O)OCC)C(=CC=C1N)F | C9H11FN2O2
reactant | sodium nitrite | 5.04 mmole, 348 mg | N(=O)[O-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 30 ml | O | H2O
product | ethyl 6-fluoro-1H-1,2,3-benzotriazole-7-carboxylate | 920 mg, 87% yield | FC=1C=CC2=C(NN=N2)C1C(=O)OCC | C9H8FN3O2
